data/polar.json
{"reaction_name": "Fmoc deprotection", "rsmi": "[CH3:1][NH:2][C:3](=[O:4])[O:5][CH2:6][C:7]([H:26])([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[NH:20]1[CH2:21][CH2:22][CH2:23][CH2:24][CH2:25]1>>[CH3:1][NH:2]([H:26]).[O:4]=[C:3]=[O:5].[CH2:6]=[C:7]([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[NH:20]1[CH2:21][CH2:22][CH2:23][CH2:24][CH2:25]1", "epd": [["Sigma-/LP+", [7, 26], [7]], ["LP-/Pi+", [7], [6, 7]], ["Sigma-/LP+", [5, 6], [5]], ["LP-/Pi+", [5], [3, 5]], ["Sigma-/LP+", [2, 3], [2]], ["LP-/Sigma+", [2], [2, 26]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]1([O-:18])[cH:15][cH:3][c:7]([O:10][CH3:6])[cH:4][cH:16]1.[c:2]12[c:14]([n:8][o:21][n+:20]1[O-:5])[n:13][c:11]([O:17][CH3:12])[n:9][cH:19]2>>[c:1]1([O:18][CH:19]2[c:2]3[c:14]([n:8][o:21][n+:20]3[O-:5])[N:13]=[C:11]([O:17][CH3:12])[N-:9]2)[cH:15][cH:3][c:7]([O:10][CH3:6])[cH:4][cH:16]1", "epd": [["LP-/Sigma+", [18], [18, 19]], ["Pi-/LP+", [19, 9], [9]]]}
{"reaction_name": "β-Halo carbonyl elimination", "rsmi": "[CH:2]([CH:5]([CH3:4])[Br:6])([C:9]([CH3:3])=[O:8])[H:10].[O-:1][CH3:7]>>[Br-:6].[CH:2](=[CH:5][CH3:4])[C:9]([CH3:3])=[O:8].[O:1]([CH3:7])[H:10]", "epd": [["LP-/Sigma+", [1], [1, 10]], ["Sigma-/Pi+", [2, 10], [2, 5]], ["Sigma-/LP+", [5, 6], [6]]]}
{"reaction_name": "Breslow-intermediate oxidation", "rsmi": "[CH3:1][C:2]([H:3])=[O:5].[H:4][O-:6]>>[CH3:1][C:2](=[O:5])[O-:6].[H:3][H:4]", "epd": [["LP-/Sigma+", [6], [2, 6]], ["Pi-/LP+", [2, 5], [5]], ["LP-/Pi+", [5], [2, 5]], ["Sigma-/Sigma+", [2, 3], [3, 4]], ["Sigma-/LP+", [4, 6], [6]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O-:1][C:23](=[CH:3][c:8]1[cH:13][cH:6][cH:25][cH:7][cH:14]1)[O:24][CH2:27][CH3:10].[O:2]([S:9][C:22]([F:15])([F:16])[F:17])[C:11]([CH3:20])([CH3:21])[c:26]1[cH:4][cH:18][cH:12][cH:19][cH:5]1>>[O-:2][C:11]([CH3:20])([CH3:21])[c:26]1[cH:4][cH:18][cH:12][cH:19][cH:5]1.[O:1]=[C:23]([CH:3]([c:8]1[cH:13][cH:6][cH:25][cH:7][cH:14]1)[S:9][C:22]([F:15])([F:16])[F:17])[O:24][CH2:27][CH3:10]", "epd": [["LP-/Pi+", [1], [23, 1]], ["Pi-/Sigma+", [3, 23], [3, 9]], ["Sigma-/LP+", [9, 2], [2]]]}
{"reaction_name": "Boron aldol addition", "rsmi": "[CH3:1][CH:8]=[C:4]([CH3:2])[O:7][B:3]([F:10])[F:11].[O:5]=[CH:9][CH3:6]>>[CH3:1][CH:8]([C:4]([CH3:2])=[O:7])[CH:9]([O:5][B:3]([F:10])[F:11])[CH3:6]", "epd": [["Pi-/Sigma+", [5, 9], [3, 5]], ["Sigma-/Pi+", [3, 7], [4, 7]], ["Pi-/Sigma+", [4, 8], [8, 9]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:3](#[N:9])[C:16]([C:4]#[N:10])=[CH:5][c:17]1[cH:7][cH:12][cH:18][cH:13][cH:8]1.[CH3:1][C:6]([CH3:2])=[N+:11]([O-:14])[O-:15]>>[CH3:1][C:6]([CH3:2])([CH:5]([C:16](=[C:3]=[N-:9])[C:4]#[N:10])[c:17]1[cH:7][cH:12][cH:18][cH:13][cH:8]1)[N+:11](=[O:14])[O-:15]", "epd": [["LP-/Pi+", [14], [11, 14]], ["Pi-/Sigma+", [6, 11], [6, 5]], ["Pi-/Pi+", [5, 16], [16, 3]], ["Pi-/LP+", [3, 9], [9]]]}
{"reaction_name": "Dehydroacetoxylation", "rsmi": "[CH3:1][CH:3]([CH:8]([CH3:6])[H:11])[O:10][C:9]([CH3:5])=[O:7].[O-:2][CH3:4]>>[CH3:1][CH:3]=[CH:8][CH3:6].[CH3:5][C:9](=[O:7])[O-:10].[O:2]([CH3:4])[H:11]", "epd": [["LP-/Sigma+", [2], [2, 11]], ["Sigma-/Pi+", [8, 11], [3, 8]], ["Sigma-/LP+", [3, 10], [10]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N:1]1([c:26]2[cH:34][cH:3][n:40][cH:4][cH:35]2)[CH2:20][CH2:38][CH2:5][CH:21]1[C:32]([c:28]1[cH:8][cH:15][cH:22][cH:16][cH:9]1)([c:29]1[cH:10][cH:17][cH:23][cH:18][cH:11]1)[F:37].[n:2]1[n:6][c:36]2[n:13]([cH:19][c:33]([N+:12](=[O:7])[O-:30])[cH:27][c:24]2[N+:25](=[O:14])[O-:39])[n:31]1>>[N+:1]1(=[c:26]2[cH:34][cH:3][n:40]([CH:19]3[n:13]4[n:31][n:2][n:6][c:36]4[C:24]([N+:25](=[O:14])[O-:39])=[CH:27][C:33]3=[N+:12]([O-:7])[O-:30])[cH:4][cH:35]2)[CH2:20][CH2:38][CH2:5][CH:21]1[C:32]([c:28]1[cH:8][cH:15][cH:22][cH:16][cH:9]1)([c:29]1[cH:10][cH:17][cH:23][cH:18][cH:11]1)[F:37]", "epd": [["LP-/Pi+", [1], [1, 26]], ["Pi-/Pi+", [19, 33], [12, 33]], ["Pi-/Pi+", [26, 35], [4, 35]], ["Pi-/LP+", [7, 12], [7]], ["Pi-/Sigma+", [4, 40], [19, 40]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH2:1]=[N:7][N:3]1[CH2:8][CH2:5][CH2:4][CH2:9]1.[CH:2](=[O+:15][CH3:14])[c:16]1[cH:12][cH:10][cH:6][cH:11][cH:13]1>>[CH2:1]([CH:2]([O:15][CH3:14])[c:16]1[cH:12][cH:10][cH:6][cH:11][cH:13]1)[N:7]=[N+:3]1[CH2:8][CH2:5][CH2:4][CH2:9]1", "epd": [["LP-/Pi+", [3], [7, 3]], ["Pi-/Sigma+", [1, 7], [1, 2]], ["Pi-/LP+", [2, 15], [15]]]}
{"reaction_name": "Oxa-Michael addition", "rsmi": "[O-:2][CH3:4].[O:1]=[C:8]([CH:5]=[CH2:6])[O:7][CH3:3]>>[O:1]=[C:8]([CH-:5][CH2:6][O:2][CH3:4])[O:7][CH3:3]", "epd": [["LP-/Sigma+", [2], [2, 6]], ["Pi-/LP+", [5, 6], [5]]]}
